US05599832
Preparation of 5-Chloro-2-iodo-1-methylindole
A mixture of 5-chloro-1-methylindole (10.0 g, 60.4 mmole) and n-butyl lithium (29 mL of 2.5 M sol'n in hexanes, 72.5 mmole) in diethyl ether is heated at reflux temperature for 3 hours, cooled to 0° C., treated with iodine (18.4 g, 72.5 mmole), stirred at 0° C. for 1 hour, warmed to room temperature, stirred for 1 hour, and treated with aqueous sodium sulfite. After phase separation, the organic phase is dried over MgSO4 and concentrated in vacuo to give the title product as a brown oil which solidified on standing, 16.5 g (93.7% yield). The title product is used as in Example 4.

reactant | 5-chloro-1-methylindole | 60.4 mmole, 10.0 g | ClC=1C=C2C=CN(C2=CC1)C | C9H8ClN
reactant | n-butyl lithium | 72.5 mmole, 2.5 M, 29 mL | C(CCC)[Li]
reactant | iodine | 72.5 mmole, 18.4 g | II | I2
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
solvent | diethyl ether | C(C)OCC | C4H10O
product | 5-Chloro-2-iodo-1-methylindole | 93.7% yield | ClC=1C=C2C=C(N(C2=CC1)C)I | C9H7ClIN
